US07759379B2
2-(2,2-Diethoxy-ethoxy)-1-methoxy-4-nitro-benzene
A suspension of 7.50 g 2-methoxy-5-nitro-phenol, 9.61 g 2-bromo-1,1-diethoxy-ethane and 15.89 g cesium carbonate in 75 ml N,N-dimethylformamide was stirred at 100° C. for 4 hours. After cooling to room temperature the reaction mixture was treated with an aqueous 1% solution of sodium hydroxide and extracted twice with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. After filtration and concentration of the solvent under reduced pressure the residue was dissolved in a mixture of ethyl acetate and n-heptane. After removal of the ethyl acetate under reduced pressure the resulting residue was filtered off and the clear solution concentrated under reduced pressure. The residue was directly subjected to the subsequent reaction without further purification. Yield: 9.45 g

reactant | 2-methoxy-5-nitro-phenol | 7.50 g | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 2-bromo-1,1-diethoxy-ethane | 9.61 g | BrCC(OCC)OCC | C6H13BrO2
reactant | cesium carbonate | 15.89 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-(2,2-Diethoxy-ethoxy)-1-methoxy-4-nitro-benzene | C(C)OC(COC1=C(C=CC(=C1)[N+](=O)[O-])OC)OCC | C13H19NO6
